US05380729
A solution of 138.2 g (2 mol) of isobutyronitrile in 101.2 g (2.2 mol) of ethanol cooled to 0° C. was saturated with anhydrous HCl gas (total vol. of HCl=1.5 L: 2.2 mol) at a rate of 1.5 L/min for 35 minutes. The resulting mixture was tightly capped and stored in a refrigerator (-5° C.) for 5 days and then stirred at room temperature for 18 hours. The solid formed was removed by filtration and the filtrate was poured into 2 L of anhydrous ether with stirring and the resulting reaction mixture was stirred at 0°-5° C. for 30 minutes. The precipitated solid was filtered, washed with anhydrous ether, and dried in a vacuum oven (over KOH) to afford 150 g (98.9%) of 1-imino-1-ethoxyisobutane hydrochloride.

reactant | isobutyronitrile | 2 mol, 138.2 g | C(C(C)C)#N | C4H7N
reactant | ethanol | 2.2 mol, 101.2 g | C(C)O | C2H6O
reactant | HCl | 2.2 mol, 1.5 L | Cl | ClH
product | 1-imino-1-ethoxyisobutane hydrochloride | 150 g, 98.9% | Cl.N=C(C(C)C)OCC | InChI=1S/C6H13NO.ClH/c1-4-8-6(7)5(2)3;/h5,7H,4H2,1-3H3;1H
